US03950353
N-(2-Dimethylaminoethyl)-N'-[2-(2-pyrimidylmethylamino)-ethyl]thiourea
Treating N-(2-pyrimidylmethyl)ethylenediamine with 2-dimethylaminoethyl isothiocyanate, then concentrating and separating by column chromatography by the procedure of Example 40 (a)(ii) gives the title compound.

reactant | N-(2-pyrimidylmethyl)ethylenediamine | N1=C(N=CC=C1)CNCCN | C7H12N4
reactant | 2-dimethylaminoethyl isothiocyanate | CN(CCN=C=S)C | C5H10N2S
product | N-(2-Dimethylaminoethyl)-N'-[2-(2-pyrimidylmethylamino)-ethyl]thiourea | CN(CCNC(=S)NCCNCC1=NC=CC=N1)C | C12H22N6S
